US09399630B2
3-[4-(p-Toluenesulfonyloxy)butyl]-1H-indole-5-carbonitrile was prepared by reacting 3-(4-hydroxybutyl)-1H-indole-5-carbonitrile with p-toluenesulfonyl chloride in the presence of base in dichloromethane as per the process exemplified in example 2 of Chinese Patent Application Publication No. CN 102267932 A.

reactant | 3-(4-hydroxybutyl)-1H-indole-5-carbonitrile | OCCCCC1=CNC2=CC=C(C=C12)C#N | C13H14N2O
reactant | p-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-[4-(p-Toluenesulfonyloxy)butyl]-1H-indole-5-carbonitrile | C1(=CC=C(C=C1)S(=O)(=O)OCCCCC1=CNC2=CC=C(C=C12)C#N)C | C20H20N2O3S
